US09370522B2
A solution of 2-hydroxy-1,2-bis(3-methoxyphenyl)ethanone (3.5 g, 12.87 mmol, 1.00 equiv), NH4NO3 (1.04 g, 13.00 mmol, 1.00 equiv), and Cu(OAc)2.H2O (260 mg, 1.30 mmol, 0.10 equiv) in 80% aqueous HOAc (30 mL) was allowed to react, with stirring, for 2 hrs while the temperature was maintained at reflux in an oil bath. Upon cooling to 0° C., the solid was filtered and washed with H2O (3×30 ml), affording 2.5 g (72%) of 1,2-bis(3-methoxyphenyl)-1,2-ethandione as a yellow solid.

reactant | 2-hydroxy-1,2-bis(3-methoxyphenyl)ethanone | 12.87 mmol, 3.5 g, 1.00 equiv | OC(C(=O)C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC | C16H16O4
solvent | HOAc | 30 mL | CC(=O)O | C2H4O2
catalyst | Cu(OAc)2.H2O | 1.30 mmol, 260 mg, 0.10 equiv | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
product | 1,2-bis(3-methoxyphenyl)-1,2-ethandione | 2.5 g, 72% | COC=1C=C(C=CC1)C(C(=O)C1=CC(=CC=C1)OC)=O | C16H14O4
